US04334912
To a solution of sodium hydride (60% oily suspension) (8.0 g) in 200 ml of dimethylsulfoxide was added dropwise 27.2 g of p-methylphenethyl alcohol at a temperature below 20° C. under ice-cooling, followed by stirring at room temperature for 1 hour. To the resultant mixture, was added dropwise a solution of 31.7 g of 2-chloro-5-nitropyridine in 100 ml of dimethylsulfoxide, and the resulting mixture was heated at 60° C. for 1 hour. After cooling, the reaction mixture was poured into ice water and extracted with ethyl acetate. The extracts were washed with water and dried over magnesium sulfate. After removal of the solvent, the oily products were purified by column chromatography on silica gel using benzene as an eluent to give 28.9 g of 2-(4-methylphenethyloxy)-5-nitropyridine as yellow crystals. Yield, 56%. M.P., 85°-85.5° C.

reactant | sodium hydride | 8.0 g | [H-].[Na+]
reactant | p-methylphenethyl alcohol | 27.2 g | CC1=CC=C(CCO)C=C1 | C9H12O
reactant | 2-chloro-5-nitropyridine | 31.7 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | dimethylsulfoxide | 200 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 2-(4-methylphenethyloxy)-5-nitropyridine | 28.9 g | CC1=CC=C(CCOC2=NC=C(C=C2)[N+](=O)[O-])C=C1 | C14H14N2O3
